* source RFMC_FRONTEND_V1_00
.EXTERNAL INPUT DAC_P
.EXTERNAL INPUT DAC_N
.EXTERNAL OUTPUT SMA_OUT
R_R1         DAC_P N00328  106.07 TC=0,0 
R_R2         DAC_N N00341  106.07 TC=0,0 
R_R3         N00341 N00328  157.68 TC=0,0 
R_R4         DAC_N DAC_P  157.68 TC=0,0 
C_C1         N00328 N00708  100nF  TC=0,0 
C_C2         N00341 N00697  100nF  TC=0,0 
C_C3         N01805 N01772  100nF  TC=0,0 
C_C4         N01797 SMA_OUT  100nF  TC=0,0 
R_R5         N01868 12V0  221 TC=0,0 
L_L1         N01797 N01868  0.5uH  
C_C5         GND 12V0  100nF  TC=0,0 
C_C6         GND 12V0  1uF  TC=0,0 
