* source CIRCUIT_SIM
R_R1         N00111 N00090  106.07 TC=0,0 
R_R2         N00097 N00090  157.68 TC=0,0 
R_R3         N00104 N00111  157.68 TC=0,0 
R_R4         N00097 N00104  106.07 TC=0,0 
L_L1         0 N00090  1mH  
L_L2         0 N00097  1mH  
L_L3         0 N00577  1mH  
R_R5         0 N00577  50 TC=0,0 
Kn_K1         L_L1 L_L2 
+ L_L3    0.99 Kbreak
V_V1         N00111 N00104 DC 0 AC 0
+SIN 0 1 200000000 0 0 0
