***********************************************************
*
* PRTR5V0U2X
*
* Nexperia
*
* Ultra low capacitance double rail-to-rail ESD protection diode
* VRWM     = 5,5V
* CI/O-GND = 1,5pF @ f = 1MHz, VI/O-GND = 0V
* IR       = 100nA @ VR = 3V
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT143B
*
* Package Pin 1: Ground
* Package Pin 2: Input/Output 1
* Package Pin 3: Input/Output 2
* Package Pin 4: Supply Voltage
*
*
* Extraction date (week/year): 20/2017
* Simulator: SPICE3
*
***********************************************************
*
* The resistors R1/R2 and the diodes
* D2/D4 do not reflect physical
* devices but improve only modeling in the
* reverse mode of operation.
*
.SUBCKT PRTR5V0U2X 1 2 3
R1 1 2 2E+010
R2 1 3 5E+012
D1 2 1 DIODE1
D2 2 1 DIODE2
D3 3 1 DIODE3
D4 3 1 DIODE4
*
.MODEL DIODE1 D
 + IS = 5E-016
 + N = 1
 + BV = 7.73
 + IBV = 1.098E-006
 + RS = 20
 + CJO = 1.15E-012
 + VJ = 0.26
 + M = 0.044
 + FC = 0.5
 + TT = 0
 + EG = 1.1
 + XTI = 3
 .MODEL DIODE2 D
 + IS = 3E-015
 + N = 1.24
 + RS = 0.2
 .MODEL DIODE3 D
 + IS = 1E-014
 + N = 0.98
 + BV = 7.07
 + IBV = 1.195E-008
 + RS = 0.5
 + CJO = 1.525E-011
 + VJ = 0.6
 + M = 0.268
 + FC = 0.5
 + TT = 0
 + EG = 1.1
 + XTI = 3
 .MODEL DIODE4 D
 + IS = 3E-016
 + N = 1.1
 + RS = 250
 .ENDS
*
